US06498258B2
To 59.4 g of water, 21.4 g of benzylamine was added, and the resulting mixture was stirred with 17.8 g of 37% by weight formaldehyde aqueous solution at room temperature for 1 hour. To the mixture, 25.6 g of 3-acetyltetrahydrofuran-2-one was added dropwise, followed by stirring at 60° C. for 1 hour. After the completion of reaction, the resulting mixture was cooled to room temperature, followed by removal of water from the resulting oily matter, and thereby yielded 23.6 g of 3-acetyl-N-benzyl-3-aminomethyltetrahydrofuran-2-one as a yellow oily matter.

reactant | benzylamine | 21.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | formaldehyde | C=O | CH2O
reactant | 3-acetyltetrahydrofuran-2-one | 25.6 g | C(C)(=O)C1C(OCC1)=O | C6H8O3
solvent | water | 59.4 g | O | H2O
product | 3-acetyl-N-benzyl-3-aminomethyltetrahydrofuran-2-one | 23.6 g | C(C)(=O)C1(C(OCC1)=O)CNCC1=CC=CC=C1 | C14H17NO3
